data/pmechdb/original/mc_train_fold0/raw/train.txt
C1CCC(CC1)NC(=O)C(CC2=CC=C(C=C2)OCC3=CC=CC=C3)[NH2+:21][C:20](=O)[O-:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>C1CCC(CC1)NC(=O)C(CC2=CC=C(C=C2)OCC3=CC=CC=C3)[NH2:21].[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10=20;20,21=21
[H:20][OH+:21]CC=CO.[OH2:10]>>[H:20][OH2+:10].C(C=CO)[OH:21] 10=20;20,21=21
COC(=O)C[C:11]1=[C:10]([CH:20](C[O:12]1)[OH2+:21])C(=O)OC.C1=CC=[NH+]C=C1.O.[Cl-]>>COC(=O)C[C:11]1=[O+:12]C[CH:20]=[C:10]1C(=O)OC.[OH2:21].C1=CC=[NH+]C=C1.O.[Cl-] 10,11=10,20;20,21=21;12=11
[H:20][OH2+:21].CC(=O)CC[CH:10]=[C:11](C)[O-:12]>>[H:20][CH:10](CCC(=O)C)[C:11](=[O:12])C.[OH2:21] 10,11=10,20;20,21=21;12=11
C1CCC(CC1)CC[N:10]2CCCC2[CH2:20][Cl:21].CCNC(=O)CCCNCC1CCCCC1>>C1CCC(CC1)CC[N+:10]23CCCC2[CH2:20]3.[Cl-:21].CCNC(=O)CCCNCC1CCCCC1 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.CC(=O)C1=C(C=CC=C1)NC(=O)C(CC2=CC=CC=C2)[NH2:10].C(=O)=O>>[H:20][NH2+:10]C(CC1=CC=CC=C1)C(=O)NC2=C(C=CC=C2)C(=O)C.C(=O)(C(F)(F)F)[O-:21].C(=O)=O 10=20;20,21=21
CC1=NC(=CS1)C=C(C)C(CC=C)[OH+:11][Ti-:10](O)(OC(C)C)(OC(C)C)OC(C)C.CCCC[Sn](CCCC)(CCCC)OC(C)C>>CC1=NC(=CS1)C=C(C)C(CC=C)[OH:11].CC(C)O[Ti:10](O)(OC(C)C)OC(C)C.CCCC[Sn](CCCC)(CCCC)OC(C)C 10,11=11
CC(=O)[O:21][C:20](C)([N+]1=CC=C(C=C1)N(C)C)[O-:10].CCN(CC)CC.CC(C)(C)O.CO>>C[C:20](=[O:10])[N+]1=CC=C(C=C1)N(C)C.CC(=O)[O-:21].CCN(CC)CC.CC(C)(C)O.CO 10=20;20,21=21
[H:20][C:21]1(C=C(O[C+:22]1C)C)C(C)C.[F-:10]>>[H:20][F:10].CC1=C[C:21](=[C:22](O1)C)C(C)C 10=20;20,21=21,22
CC(=O)O[P+:20](O)(OC)OC.[N-:10]=[N+]=[N-]>>CC(=O)O[P:20]([N:10]=[N+]=[N-])(O)(OC)OC 10=20,
CCN[C:22](=[O:23])[CH:21]=[CH2:20].C[C:11](=[CH2:10])[O-:12]>>CCN[C:22](=[CH:21][CH2:20][CH2:10][C:11](=[O:12])C)[O-:23] 10,11=10,20;12=11;22,23=23;20,21=21,22
CCO[C:20](=[O:21])CCC[CH:10]=[C:11]([O-:12])OCC>>CCO[C:11](=[O:12])[CH:10]1CCC[C:20]1([O-:21])OCC 10,11=10,20;20,21=21;12=11
C1C(C[NH2+]C1[C:20](=[OH+:21])O)O.C1=CC=C(C=C1)C[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.OS(=O)(=O)[O-]>>C1C(C[NH2+]C1[C:20](O)([OH:21])[OH+:10]CC2=CC=CC=C2)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.OS(=O)(=O)[O-] 10=20;20,21=21
CO[C:11]1=[CH:10]C=CC(=C1)[N+](=O)[O-].[N+:20](=O)=[O:21]>>CO[C+:11]1C=C(C=C[CH:10]1[N+:20](=O)[O-:21])[N+](=O)[O-] 10,11=10,20;20,21=21
[H:20][C:21]1(SCCCS1)[Si](CC)(CC)CC.[Li:11][C:10](C)(C)C>>[H:20][C:10](C)(C)C.[Li+:11].CC[Si](CC)(CC)[C-:21]1SCCCS1 10,11=10,20;20,21=21
C1C[NH2+:21][C:20](OC1)([O-:10])Cl>>C(C[NH2:21])CO[C:20](=[O:10])Cl 10=20;20,21=21
[H:20][N+:21](=CC=CC1=CC=CC=C1)CC2=CC=CC=C2.[OH-:10].CO.C1=CC=C(C=C1)CN>>[H:20][OH:10].C1=CC=C(C=C1)C[N:21]=CC=CC2=CC=CC=C2.CO.C1=CC=C(C=C1)CN 10=20;20,21=21
[H:20][NH+:21]1CCCC1.CC12CCC(=CC1(CCCC2=O)[OH:10])N3CCCC3.O>>[H:20][OH+:10]C12CCCC(=O)C1(CCC(=C2)N3CCCC3)C.C1CC[NH:21]C1.O 10=20;20,21=21
[H:20][N:21](C1=C(C=CC2=C1CCC3C2CCC4(C3CCC4=O)C)OC)[N:22]=[OH+:23].[B-](F)(F)(F)F.[OH2:10]>>[H:20][OH2+:10].[B-](F)(F)(F)F.CC12CCC3C(C1CCC2=O)CCC4=C3C=CC(=C4[N:21]=[N:22][OH:23])OC 10=20;20,21=21,22;22,23=23
CC[CH:20](CC)[Br:21].[C-:10]#N>>CC[CH:20](CC)[C:10]#N.[Br-:21] 10=20;20,21=21
CC1CCC([CH:20](C1)[O:21]S(=O)(=O)C2=CC=C(C=C2)C)OC(=[O:10])C>>CC1CCC2[CH:20](C1)[O+:10]=C(O2)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][OH+:21]C(C1=C(C=CC=C1F)C=CC(=O)OCC)OCCCO.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.CCOC(=O)C=CC1=C(C(=CC=C1)F)C([OH:21])OCCCO.O 10=20;20,21=21
[H:20][C:21](C)([CH:22](C)[Br:23])Br.[OH-:10]>>[H:20][OH:10].C[CH:22]=[C:21](C)Br.[Br-:23] 10=20;22,23=23;20,21=21,22
[Li-:10]([O+:11]=C(C1CC1SC(C)(C)C)OC)Br>>[Li:10]Br.CC(C)(C)SC1CC1C(=[O:11])OC 10,11=11
CC(C)C1=C(C(=CC=C1)C(C)C)N2C=C[N+](=C2[C:20](=[O:21])CC(C3=CC=CC=C3)C(C4=CC=CC=C4)(C(F)(F)F)[O-:10])C5=C(C=CC=C5C(C)C)C(C)C.CC(C)(C)O>>CC(C)C1=C(C(=CC=C1)C(C)C)N2C=C[N+](=C2[C:20]3(CC(C([O:10]3)(C4=CC=CC=C4)C(F)(F)F)C5=CC=CC=C5)[O-:21])C6=C(C=CC=C6C(C)C)C(C)C.CC(C)(C)O 10=20;20,21=21
[B:20]1(OC(C(O1)(C)C)(C)C)C2=C(C=C(C(=C2)O)OC)C=C(C(=O)SCC)C(=O)SCC.O[O-:10].O>>[B-:20]1(OC(C(O1)(C)C)(C)C)(C2=C(C=C(C(=C2)O)OC)C=C(C(=O)SCC)C(=O)SCC)[O:10]O.O 10=20,
C1CS[CH:20]([S:10]1)[OH2+:21]>>C1C[S+:10]=[CH:20]S1.[OH2:21] 10=20;20,21=21
C[Si](C)(C)[O+:11]=[CH2:10]>>C[Si](C)(C)[O:11][CH2+:10] 10,11=11
COC1=C(C=C(C=C1)CC[N+:21]2(C[CH2:20]2)C3=CC(=O)CCC3)OC.[Br-:10]>>COC1=C(C=C(C=C1)CC[N:21](C[CH2:20][Br:10])C2=CC(=O)CCC2)OC 10=20;20,21=21
[CH:11]1=[CH:10]OC(=C1)Br.O[S+:20](=O)=O>>C1=C(O[CH:10]([CH+:11]1)[S:20](=O)(=O)O)Br 10,11=10,20
C1=CC=C(C=C1)CC(=O)C=[C:20]([O-:10])[Cl:21]>>C1=CC=C(C=C1)CC(=O)C=[C:20]=[O:10].[Cl-:21] 10=20;20,21=21
[H:20][O:21][C:22](=[O:23])C(F)(F)F.CC1(OC2CC3(CC(=O)N(C3=CC2[O:10]1)CCC4=CC(=C(C=C4)OC)OC)C(=O)OC)C>>[H:20][O+:10]1C2C=C3C(CC2OC1(C)C)(CC(=O)N3CCC4=CC(=C(C=C4)OC)OC)C(=O)OC.[C:22](=[O:21])(C(F)(F)F)[O-:23] 10=20;22,23=23;20,21=21,22
CC[CH:20]1C([Br+:21]1)C.[Br-:10]>>CC[CH:20](C(C)[Br:21])[Br:10] 10=20;20,21=21
[H:20][O:21]C(=O)C.CCOC(=O)C(=[O:10])CC(C1=C(C(=CC=C1)N2CCCCC2)[N+](=O)[O-])C(=O)C(=O)OCC.C1CCOC1>>[H:20][O+:10]=C(CC(C1=C(C(=CC=C1)N2CCCCC2)[N+](=O)[O-])C(=O)C(=O)OCC)C(=O)OCC.CC(=O)[O-:21].C1CCOC1 10=20;20,21=21
